US04977272
A solution of N-[4-(1-hydroxyiminoethyl)phenyl]-N'-methoxycarbonylmethylurea in 25% methanolic sodium methoxide (1.0 equivalent) is treated at room temperature with 1.1 equivalent of allyl bromide. The reaction mixture is stirred until the temperature falls to about 20° C. The reaction mixture is then poured into cold water and extracted with diethyl ether. The ether solution is dried over MgSO4 and filtered, and the solvent is removed by rotary evaporator to yield N-[4-(1-allyloxyiminoethyl)phenyl-N'-methoxycarbonylmethylurea.

reactant | N-[4-(1-hydroxyiminoethyl)phenyl]-N'-methoxycarbonylmethylurea | ON=C(C)C1=CC=C(C=C1)NC(=O)NCC(=O)OC | C12H15N3O4
reactant | sodium methoxide | 1.0 equivalent | C[O-].[Na+]
reactant | allyl bromide | 1.1 equivalent | C(C=C)Br | C3H5Br
solvent | water | O | H2O
product | 4-(1-allyloxyiminoethyl)phenyl-N'-methoxycarbonylmethylurea | C(C=C)ON=C(C)C1=CC=C(C=C1)NC(=O)NCC(=O)OC | C15H19N3O4
